US06051288
Then, 1.3 g (6.5 mmol) of 3-fluoro-4-trifluoromethoxyphenol, 0.8 ml of pyridine, and 3 ml of toluene were mixed. To this mixture was added dropwise 3 ml of toluene solution containing 6.5 mmol of 4-(trans-4-propylcyclohexyl)benzoyl chloride at room temperature in 5 minutes. After the dropping was finished, they were reacted at 50° C. for 3 hours. After finishing of the reaction, 15 ml of water was added to the reaction product, and then extracted with 40 ml of toluene. The organic layer thus obtained was washed with 6N-hydrochloric acid thrice, 2N-sodium hydroxide thrice, and water thrice, and then dried over anhydrous magnesium sulfate. Solvent was distilled off at a reduced pressure and the residue was subjected to a silica gel column chromatography (eluent: toluene) to obtain 2.6 g of a crude 3-fluoro-4-trifluoromethoxyphenyl 4-(trans-4-propyl-cyclohexyl)benzoate. This product was recrystallized from a mixed solvent of heptane/ether (1/1) to obtain 2.4 g (yield: 85.6%) of the subject compound.

reactant | 3-fluoro-4-trifluoromethoxyphenol | 6.5 mmol, 1.3 g | FC=1C=C(C=CC1OC(F)(F)F)O | C7H4F4O2
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(trans-4-propylcyclohexyl)benzoyl chloride | 6.5 mmol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)Cl)C=C1 | C16H21ClO
solvent | water | 15 ml | O | H2O
product | 3-fluoro-4-trifluoromethoxyphenyl 4-(trans-4-propyl-cyclohexyl)benzoate | 2.6 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OC2=CC(=C(C=C2)OC(F)(F)F)F)C=C1 | C23H24F4O3
